US08648099B2
b) {-4-[2-(t-Butyl-dimethyl-silanyloxy)-ethyl]-piperidin-1-yl}-carbamic acid t-butyl ester
4-[2-(t-Butyl-dimethyl-silanyloxy)-ethyl]-piperidine hydrochloride (1:1) (300 mg, 1.07 mmol) was combined with dichloromethane (15 mL) to give a light yellow suspension. N,N-Diisopropylethylamine (166 mg, 225 μl, 1.29 mmol) was added at 0° C. Subsequently 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester (238 mg, 965 μmol) in dichloromethane (10 mL) was added during 20 min at 0° C. and the reaction mixture was stirred for 1 h at 0° C. Afterwards the reaction mixture was concentrated in vacuo and the residue was purified by flash chromatography (silica gel, 20 g, 0% to 40% ethyl acetate in n-heptane) to deliver an oil contaminated with 4-cyano-benzaldehyde. This material was purified by a second chromatography (aminophase 10 g, ethyl acetetate/n-heptane 1/1) to give the title compound (0.23 g, 60%) as a white solid; LC-MS (ESI) 94.9%, 359.2710 (M+H)+.

reactant | 4-[2-(t-Butyl-dimethyl-silanyloxy)-ethyl]-piperidine hydrochloride | 1.07 mmol, 300 mg | Cl.C(C)(C)(C)[Si](OCCC1CCNCC1)(C)C
reactant | N,N-Diisopropylethylamine | 1.29 mmol, 225 μl, 166 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-(4-cyanophenyl)-2-oxaziridinecarboxylic acid 1,1-dimethylethyl ester | 965 μmol, 238 mg | CC(C)(C)OC(=O)N1OC1C1=CC=C(C=C1)C#N | C13H14N2O3
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | {-4-[2-(t-Butyl-dimethyl-silanyloxy)-ethyl]-piperidin-1-yl}-carbamic acid t-butyl ester | 0.23 g, 60% | C(C)(C)(C)OC(NN1CCC(CC1)CCO[Si](C)(C)C(C)(C)C)=O | C18H38N2O3Si
